US05366988
Synthesis of 1-(O-isopropyl-3-trimethylsilylmethoxybenzohydroximoyl)-1H-1,2,4-triazole (Compound 140)
2.7 g of 1-(O-isopropyl-3-hydroxybenzohydroximoyl)-1H-1,2,4-triazole, 1.5 g of chlorotrimethylsilane, 1.8 g of potassium carbonate, and a small amount of potassium iodide catalyst were added to 100 ml of DMF. The mixture was stirred for at 90° C. 2 hours. After the resultant mixture was allowed to sit and cool naturally, it was poured into water. The organic layer was extracted with ethyl acetate and dried over magnesium sulfate. The solvent in the organic layer was removed under reduced pressure. The residue was purified by column chromatography (eluate: hexane/ethyl acetate=4/1), thus yielding 3.2 g (yield: 89%) of the desired product (transparent viscous liquid) having a refractive index of [nD20 ] 1.5310 at 20° C.

reactant | 1-(O-isopropyl-3-hydroxybenzohydroximoyl)-1H-1,2,4-triazole | 2.7 g | C(C)(C)ON=C(C1=CC(=CC=C1)O)N1N=CN=C1 | C12H14N4O2
reactant | chlorotrimethylsilane | 1.5 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
catalyst | potassium iodide | [I-].[K+]
solvent | water | O | H2O
product | 1-(O-isopropyl-3-trimethylsilylmethoxybenzohydroximoyl)-1H-1,2,4-triazole | 3.2 g, yield: 89% | C(C)(C)ON=C(C1=CC(=CC=C1)OC[Si](C)(C)C)N1N=CN=C1 | C16H24N4O2Si
